US09024019B2
Step B: 3-(3-benzyloxy-2-oxo-propyl)-5-methyl-1,3,4-oxadiazol-2-one
To a stirred suspension of 5-methyl-1,3,4-oxadiazol-2-one sodium salt (34.6 g, 284 mmol) in DMF (200 mL) at 0° C. was added dropwise a solution of 1-benzyloxy-3-chloro-propan-2-one (56.4 g, 284 mmol) in DMF (80 mL). After completion of the addition, the reaction mixture was allowed to warm to room temperature and stirring was continued for 16 h. The obtained reaction mixture was diluted with water and brine and extracted with EtOAc. The combined organic layers were washed with water, brine, and dried (Na2SO4). After evaporation of the solvent the desired product was obtained as a brown oil. Purification by flash chromatography (25% EtOAc/heptane) furnished the desired product as a yellowish oil. 1H NMR (400 MHz, CDCl3) 2.27 (s, 3H), 4.27 (s, 2H), 4.62 (s, 2H), 4.75 (s, 2H), 7.30-7.46 (m, 5H).

reactant | 5-methyl-1,3,4-oxadiazol-2-one sodium salt | 284 mmol, 34.6 g | [Na].CC1=NNC(O1)=O
reactant | 1-benzyloxy-3-chloro-propan-2-one | 284 mmol, 56.4 g | C(C1=CC=CC=C1)OCC(CCl)=O | C10H11ClO2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 3-(3-benzyloxy-2-oxo-propyl)-5-methyl-1,3,4-oxadiazol-2-one | C(C1=CC=CC=C1)OCC(CN1C(OC(=N1)C)=O)=O | C13H14N2O4
